* C:\Users\Ordimobile\Documents\projets\iut-lyon1-but-geii-sae-6\HF\SImulation FM\Draft1.asc
R1 filtre_100k vcomod 150
C1 filtre_100k 0 100n
R2 filtre_13M oscilateur 1,2k
C2 filtre_13M 0 10p
C3 N001 mel2 10n
R3 N001 0 560
R4 filtre_pb_100k N001 1k
C4 filtre_pb_100k 0 470p
A1 filtre_pb_100k N002 0 0 Vco 0 N003 0 XOR
R5 Demodul N003 10000
C5 Demodul 0 0.000000002
C6 Microin 0 1n
R6 Microin Demodul 5600
V1 oscilateur 0 PULSE(0 1 1p 1p {Duty2} {Tp} {Ncycle2})
V2 microout 0 PULSE(0 1 0 0.0000001 0.0000001 {Duty} {T} {Ncycle})
Bvco vcomod 0 V = 2.5 + 2.5*sgn(sin(2*pi*idt( {Fp}*(1 + 0.05*(V(microout) - 0.5)) )))
bvmel1 mel 0 V = V(filtre_100k)*V(filtre_13M)
bvmel2 mel2  0 V = V(mel)*V(oscilateur)
* ===> VCO====>
Bvcodemod Vco 0 V = 2.5 + 2.5*sgn(sin(2*pi*idt( {Fp}*(1 + 0.1*(V(Demodul) - 0.5)))))
.param R=1000
;op
.tran 0 {Tsim} 10n
.param F=1000 T=1/{F} Fp=13000000 Tp=1/Fp Duty2=Tp/2 Duty=T/2 Tsim=0.1 Ncycle=Tsim/T Ncycle2=Tsim/Tp
;ac dec 100 10000 1000000
.backanno
.end
