* C:\Users\gaspa\Documents\IUT\projet\iut-lyon1-but-geii-sae-6\HF\SImulation FM\sommateur.asc
* Generated by LTspice 26.0.1 for Windows.
V1 +15 0 15
V2 -15 0 -15
V3 Som 0 PULSE(0 1 0 0.0000001 0.0000001 {Duty} {T} {Ncycle})
A2 Vs N001 0 0 Vco 0 N002 0 XOR
R6 Demodul N002 10000
C2 Demodul 0 0.000000002
A3 0 0 0 0 0 0 0 0 XOR
.param R=1000
;op
.tran 0 {Tsim} 0 0.000001
.param F=1000 T=1/{F} Fp=100000 Tp=1/Fp Duty2=Tp/2 Duty=T/2 Tsim=0.1 Ncycle=Tsim/T Ncycle2=Tsim/Tp
* ===> VCO====>
Bvcodemod Vco 0 V = 2.5 + 2.5*sgn(sin(2*pi*idt( {Fp}*(1 + 0.1*(V(Demodul) - 0.5)))))
Bvco Vs 0 V = 2.5 + 2.5*sgn(sin(2*pi*idt( {Fp}*(1 + 0.05*(V(Som) - 0.5)) )))
* ===> VCO====>
* ==>filtre passe bas==>
* .ac dec 100 10000 1000000
.backanno
.end
